US08044213B2
A mixture of 0.150 g (0.39 mmole) of 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.2a), 0.078 mL of piperidine, 0.414 g of sodium triacetoxyborohydride and 5 mL of dichloromethane was stirred at room temperature for 24 hours, after which 1 mL of saturated aqueous ammonium chloride solution was added. The mixture was stirred at room temperature for 30 minutes, made basic by addition of saturated potassium carbonate solution and partitioned between 30 mL of dichloromethane and 30 mL of dilute potassium carbonate solution. The aqueous layer was extracted twice with 30 mL of dichloromethane. The combined dichloromethane layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was triturated with dichloromethane to give a pink solid. Further purification by SFC (methanol) gave 0.050 g of 4-(3-chloro-phenyl)-2-(6-piperidin-1-ylmethyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.8) as a yellow solid. MH+/Z=452

reactant | 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.39 mmole, 0.150 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)C=O | C18H11ClN4O2S
reactant | piperidine | 0.078 mL | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 0.414 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(3-chloro-phenyl)-2-(6-piperidin-1-ylmethyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.050 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)CN2CCCCC2 | C23H22ClN5OS
